US04110116
2-acetylamino-4,6-dibromo-phenol
44.2 g. of 2-amino-4,6-dibromo-phenol were processed with 85.5 ml. of acetic anhydride keeping the temperature under 50° C. By cooling, the 2-acetylamino-4,6-dibromo-phenol separated; it was collected on a filter and crystallized from ethyl alcohol. 30 g. of pure product were obtained. M.P. = 175°-176° C.

reactant | 2-amino-4,6-dibromo-phenol | NC1=C(C(=CC(=C1)Br)Br)O | C6H5Br2NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetylamino-4,6-dibromo-phenol | C(C)(=O)NC1=C(C(=CC(=C1)Br)Br)O | C8H7Br2NO2
